US04707473
To 1.25 g of methyl N-(α-phenylethyl)phenoxazine-4-carboxylate in 25 ml of glacial acetic acid was added 500 g of zinc dust with stirring. To this stirred mixture, concentrated hydrochloric acid (2 ml) was added dropwise over a 5 minutes period. At this time examination of the reaction mixture by TLC [silica gel, hexane:ethyl acetate (1:9)] showed that the starting material was consumed. The mixture was poured onto water, extracted with ethyl acetate, the extracted material was dried over sodium sulfate and the solvent removed under reduced pressure. Column chromatographic purification of the residue on silica gel (150 g) gave using the solvent system described above as the eluant gave a yellow solid, methyl phenoxazine-4-carboxylate, having mp 113°-114° C. after recrystallization from ethyl ether.

reactant | methyl N-(α-phenylethyl)phenoxazine-4-carboxylate | 1.25 g | C1(=CC=CC=C1)C(C)N1C2=CC=CC=C2OC=2C(=CC=CC12)C(=O)OC | C22H19NO3
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 500 g | [Zn] | Zn
product | methyl phenoxazine-4-carboxylate | C1=CC=C(C=2OC3=CC=CC=C3NC12)C(=O)OC | C14H11NO3
